US06753342B2
1-[1-(4-chlorobenzyl)-1H-indol-4-yl]ethanol (prepared by reaction of 1-(4-chlorobenzyl)-1H-indole-4-carbaldehyde with CH3MgCl in THF at 0° C.);
2-[4-[(allyloxy)methyl]-1-(4-chlorobenzyl)-1H-indole, oil (prepared by alkylation of [1-(4-chlorobenzyl)-1H-indol-4-yl]methanol with allyl bromide in DMF in the presence of NaH, at room temperature for 3 h).

reactant | 4-[(allyloxy)methyl]-1-(4-chlorobenzyl)-1H-indole | C(C=C)OCC1=C2C=CN(C2=CC=C1)CC1=CC=C(C=C1)Cl | C19H18ClNO
reactant | [1-(4-chlorobenzyl)-1H-indol-4-yl]methanol | ClC1=CC=C(CN2C=CC3=C(C=CC=C23)CO)C=C1 | C16H14ClNO
reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | NaH | [H-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-[1-(4-chlorobenzyl)-1H-indol-4-yl]ethanol | ClC1=CC=C(CN2C=CC3=C(C=CC=C23)C(C)O)C=C1 | C17H16ClNO
